US07683091B2
4-[(5-Nitro-1H-indol-1-yl)methyl]benzoic acid was prepared by NaOH hydrolysis of methyl 4-[(5-nitro-1H-indol-1-yl)methyl]benzoate: MS (ESI) m/z 295;

reactant | NaOH | [OH-].[Na+]
reactant | methyl 4-[(5-nitro-1H-indol-1-yl)methyl]benzoate | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)OC)C=C1 | C17H14N2O4
product | 4-[(5-Nitro-1H-indol-1-yl)methyl]benzoic acid | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)O)C=C1 | C16H12N2O4
